US09107916B2
A. [4-chloro-2-(2-methoxyethoxy)phenyl]methanol
The title compound was prepared from 5-chloro-2-(hydroxymethyl)phenol (PREPARATION 7) and 2-methoxyethylbromide according to the procedure for the preparation of Example 111, part A. 1H NMR (400 MHz, CDCl3): δ 3.24 (3H, s), 3.73-3.75 (2H, m), 4.16-4.18 (2H, m), 4.62 (2H, s), 6.87 (1H, d, J=1.6 Hz), 6.93 (1H, dd, J=2.0 Hz, 8.0 Hz), 7.18 (1H, d, J=8.0 Hz).

reactant | 5-chloro-2-(hydroxymethyl)phenol | ClC=1C=CC(=C(C1)O)CO | C7H7ClO2
reactant | 2-methoxyethylbromide | COCCBr | C3H7BrO
product | [4-chloro-2-(2-methoxyethoxy)phenyl]methanol | ClC1=CC(=C(C=C1)CO)OCCOC | C10H13ClO3
